### PR TITLE
[Merged by Bors] - feat: define BinomialRing mixin

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This file introduces the `BinomialRing` mixin (for semirings) and the `Ring.multichoose` function, which generalizes `Nat.multichoose`.  These are preliminaries to introducing generalized binomial coefficients.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ADedecker** [comment]
Hi, and thanks for your first PR! Could you please change the title of your PR to something more informative and following our [commit conventions](https://leanprover-community.github.io/contribute/commit.html). For example `feat: define binomial rings` would be perfectly fine. Also, the "assigning" mechanism is made for reviewers and maintainers to assign themselves/someone else as responsible for the review process of that PR, so there's no point in assigning yourself to your own PR.

File: Mathlib/RingTheory/Binomial.lean [hunk 1]
```diff
@@ -0,0 +1,124 @@
...
+
+/-- A semiring is binomial if multiplication by factorials is injective and pochhammer evaluations
+are divisible by the corresponding factorial. -/
+class BinomialSemiring (R: Type u) extends Semiring R where
+  /-- Multiplication by factorials is injective -/
+  inj_smul_factorial : ∀ (n:ℕ) (r s: R), n.factorial * r = n.factorial * s → r = s
+  /-- The multichoose function exists -/
+  multichoose : R → ℕ → R
+  /-- Defining property: multichoose r n is the quotient of pochhammer n (evaluated at r) by n! -/
+  factorial_mul_multichoose : ∀ (r:R) (n : ℕ), n.factorial * multichoose r n = pochEval r n
```
Comment (tb65536) [inline Mathlib/RingTheory/Binomial.lean:105]: I feel like this might be better phrased in terms of `pochEval r n` being divisible by `n.factorial`.

File: Mathlib/RingTheory/Binomial.lean [hunk 2]
```diff
@@ -0,0 +1,124 @@
...
+k! | x(x+1)⋯(x+(k-1)).
+The quotient is called "multichoose r k", following the convention given for natural numbers.
+
+## Main results
+
+none yet
+
+## References
+
+J. Elliott, `Binomial rings, integer-valued polynomials, and λ-rings` J. Pure Appl. Alg. 207 (2006)
```
Comment (alexjbest) [inline Mathlib/RingTheory/Binomial.lean:33]: We actually have a nice references system and a bibfile (e.g https://github.com/leanprover-community/mathlib4/blob/27866b848920f9620ed5a72c9039fff58e479d6f/Mathlib/NumberTheory/FunctionField.lean#L34) can you format this using that instead?

(Ok it doesn't actually work yet with the new doc-gen but it should at some point in the future I assume and at that point it will be good if this is formatted properly)

File: Mathlib/RingTheory/Binomial.lean [hunk 3]
```diff
@@ -0,0 +1,124 @@
...
+
+According to our main reference [Elliott] (which lists many equivalent conditions), a binomial ring
+is a torsion-free commutative ring R such that for any x ∈ R and any k ∈ ℕ, the product
+x(x-1)⋯(x-k+1) ∈ (k!)R.  The torsion-free condition lets us divide by k! unambiguously, so we get
+uniquely defined binomial coefficients.
+
+The defining condition doesn't require commutativity, and we get a theory with essentially the same
+power by replacing subtraction with addition.  Thus, we consider a semiring R in which
+multiplication by factorials is injective, and demand that for all x ∈ R and any k ∈ ℕ,
+k! | x(x+1)⋯(x+(k-1)).
```
Comment (alexjbest) [inline Mathlib/RingTheory/Binomial.lean:24]: Please either use tex and put this (and other pseudo code mixed into comments) in double dollar signs or use backticks ` and lean-ish code

File: Mathlib/RingTheory/Binomial.lean [hunk 4]
```diff
@@ -0,0 +1,124 @@
...
+The quotient is called "multichoose r k", following the convention given for natural numbers.
+
+## Main results
+
+none yet
```
Comment (alexjbest) [inline Mathlib/RingTheory/Binomial.lean:29]: I would simply leave this out for now

File: Mathlib/RingTheory/Binomial.lean [hunk 5]
```diff
@@ -0,0 +1,124 @@
...
+theorem pochEval_cast [Semiring R] (n : ℕ) : ∀ (k : ℕ), pochEval (n:R) k = (pochEval n k)
+| 0 => by rw [pochEval_zero, pochEval_zero, Nat.cast_one]
+| (k+1) => by
+  rw [pochEval_succ, pochEval_succ, Nat.cast_mul, pochEval_cast n k, Nat.cast_add]
+  norm_cast
+
+theorem mem_comm_translate [Semiring R] (r s: R) (n : ℕ) (h: Commute r s) : Commute r (s+n) := by
+  refine Commute.add_right h (Nat.commute_cast r n)
+
+theorem translate_comm_mem [Semiring R] (r s: R) (n : ℕ) (h: Commute r s) : Commute (r+n) s := by
```
Comment (alexjbest) [inline Mathlib/RingTheory/Binomial.lean:63]: It looks like this is a general statement about `Commute` so it should be moved to a more general place.
It should also be named so that dot notation can be used, look at how it is done in https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GroupPower/Lemmas.html#Commute.cast_nat_mul_right for instance

File: Mathlib/RingTheory/Binomial.lean [hunk 6]
```diff
@@ -0,0 +1,124 @@
...
+  refine Commute.add_left h (Nat.cast_commute n s)
+
+theorem translates_comm [Semiring R] (r s: R) (k n : ℕ) (h: Commute r s): Commute (r+k) (s+n) := by
+  refine Commute.add_right ?_ ?_
+  refine translate_comm_mem r s k h
+  exact Nat.commute_cast (r+k) n
+
+theorem translate_comm_pochEval [Semiring R] (r s:R) (k : ℕ) (h: Commute r s) : ∀ (n:ℕ),
+  Commute (r+k) (pochEval s n)
```
Comment (alexjbest) [inline Mathlib/RingTheory/Binomial.lean:72]:
```suggestion
    Commute (r+k) (pochEval s n)
```

Comment (alexjbest) [reply Mathlib/RingTheory/Binomial.lean:72]: and below, we use 4 spaces here so that there is visually difference between the statement and the start of the proof

File: Mathlib/RingTheory/Binomial.lean [hunk 7]
```diff
@@ -0,0 +1,124 @@
...
+| 0=> by rw [add_zero, pochEval_zero, one_mul]
+| (k+1) => by
+  rw [← add_assoc, pochEval_succ, pochEval_mul r n k, pochEval_succ, mul_assoc, Nat.cast_add,
+    add_assoc]
+
+/-- A semiring is binomial if multiplication by factorials is injective and pochhammer evaluations
+are divisible by the corresponding factorial. -/
+class BinomialSemiring (R: Type u) extends Semiring R where
+  /-- Multiplication by factorials is injective -/
+  inj_smul_factorial : ∀ (n:ℕ) (r s: R), n.factorial * r = n.factorial * s → r = s
```
[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean:101]: The equivalence is true for rings, and I had thought it also held for semirings until quite recently.  A counterexample is given by taking the free \N-algebra on generators x and y, and quotienting by the relation 2x = 2y.

[the remark this answers is not in the document]
Comment (tb65536) [reply Mathlib/RingTheory/Binomial.lean:101]: Ah, but at least it's equivalent to multiplication by integers being injective?

[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Yes, for strictly positive integers.  Also equivalent: the map $$R \to R \otimes_{\mathbb{N}} \mathbb{Q}_{\geq 0}$$ given by $$r \mapsto r \otimes 1$$ is injective.

File: Mathlib/RingTheory/Binomial.lean [hunk 8]
```diff
@@ -0,0 +1,124 @@
...
+theorem pochEval_succ [Semiring R] (r : R) (k : ℕ) :
+  pochEval r (k.succ) = (r + k) * (pochEval r k) := by rfl
+
+theorem pochEval_cast [Semiring R] (n : ℕ) : ∀ (k : ℕ), pochEval (n:R) k = (pochEval n k)
+| 0 => by rw [pochEval_zero, pochEval_zero, Nat.cast_one]
+| (k+1) => by
+  rw [pochEval_succ, pochEval_succ, Nat.cast_mul, pochEval_cast n k, Nat.cast_add]
+  norm_cast
+
+theorem mem_comm_translate [Semiring R] (r s: R) (n : ℕ) (h: Commute r s) : Commute r (s+n) := by
```
[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: I think I fixed all of them.

File: Mathlib/RingTheory/Binomial.lean [hunk 9]
```diff
@@ -0,0 +1,124 @@
...
+-/
+
+namespace Ring
+
+universe u
+
+variable {R:Type u}
+
+/-- pochEval directly evaluates the n-th Pochhammer polynomial at an element r. -/
+def pochEval [Semiring R] (r:R) : ℕ → R
```
[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Thank you, that is a great idea.

File: Mathlib/RingTheory/Binomial.lean (hunk 1 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: I have rewritten the docstrings to better reflect this.

File: Mathlib/RingTheory/Binomial.lean (hunk 2 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Yes, I think the new revision is in the right format.

File: Mathlib/RingTheory/Binomial.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/RingTheory/Binomial.lean]: No, I mean you could change the actual lean code to be in terms of divisibility, and then you wouldn't have to have multichoose be part of the data, since it would be uniquely determined.

Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: I see.  That was the original method I used, but a Zulip conversation convinced me to try it this way: https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/How.20prove.20things.20about.20Exists.2Echoose.20terms.3F

File: Mathlib/RingTheory/Binomial.lean (hunk 3 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Thank you, I think I got all of them.

File: Mathlib/RingTheory/Binomial.lean (hunk 4 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Done!

File: Mathlib/RingTheory/Binomial.lean (hunk 5 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: I changed `theorem xyz` to `theorem Commute.xyz`.

File: Mathlib/RingTheory/Binomial.lean (hunk 6 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Thank you.  I think it's fixed now.

File: Mathlib/RingTheory/Binomial.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (tb65536) [reply Mathlib/RingTheory/Binomial.lean]: Yes, that does feel more natural to me.

**Review by jcommelin — COMMENTED** [review]
Thanks for your PR! I left a few comments.

File: Mathlib/RingTheory/Binomial.lean [hunk 10]
```diff
@@ -0,0 +1,124 @@
...
+  n.factorial * r = n.factorial * s → r = s := BinomialSemiring.inj_smul_factorial
+
+theorem eq_of_mul_eq_mul_factorial [BinomialSemiring R] {r s : R} (n : ℕ)
+    (h:n.factorial * r = n.factorial * s) : r = s := by
+  exact inj_smul_factorial n r s h
+
+/-- This is a generalization of the combinatorial multichoose function, given by choosing with
+replacement. -/
+def multichoose [BinomialSemiring R] : R → ℕ → R :=
+  λ r n => BinomialSemiring.multichoose r n
```
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/RingTheory/Binomial.lean:118]: Could also be
```suggestion
def multichoose [BinomialSemiring R] : R → ℕ → R :=
  BinomialSemiring.multichoose
```
here

File: Mathlib/RingTheory/Binomial.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/RingTheory/Binomial.lean]: We've generalized [IsDomain](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Ring/Defs.html#IsDomain) to use a cancellative condition (@riccardobrasca in [#17831](https://github.com/leanprover-community/mathlib/pull/17831)); should we generalize [NoZeroSMulDivisors](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Basic.html#NoZeroSMulDivisors) too?

File: Mathlib/RingTheory/Binomial.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean:118]: I've chosen to follow @jcommelin's suggestion for now, but I don't actually know the relative merits of one over the other.

**Comment by alreadydone** [comment]
Unfortunately @jjaassoonn accidentally merged his branch into yours in #3878 after bors changed the base branch. You'd need to force push when you push the next time, or alternatively you may pull in the last commit and revert it.

File: Mathlib/RingTheory/Binomial.lean [hunk 11]
```diff
@@ -0,0 +1,124 @@
...
+  refine Commute.translates_comm r s k n h
+  exact Commute.translate_comm_pochEval r s k h n
+
+theorem pochEval_eq_pochhammer_eval (r : R) :
+  ∀ (k : ℕ), pochEval r k = Polynomial.eval r (pochhammer R k)
+| 0 => by rw [pochhammer_zero, Polynomial.eval_one, pochEval_zero]
+| (k + 1) => by
+  rw [pochhammer_succ_eval, ← pochEval_eq_pochhammer_eval r k, pochEval_succ,
+    Commute.translate_comm_pochEval]
+  rfl
```
[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: I tried defining `pochEval` (or `ascPochEval`) using polynomial evaluation, but it the compiler complains unless I add `noncomputable`.  I thought it would be nice if the binomial coefficient functions (when eventually defined) were computable.  (Is there an advantage to having noncomputable defs?)

File: Mathlib/RingTheory/Binomial.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: I have changed the first condition following your suggestion.

File: Mathlib/RingTheory/Binomial.lean [hunk 12]
```diff
@@ -0,0 +1,124 @@
...
+theorem eq_of_mul_eq_mul_factorial [BinomialSemiring R] {r s : R} (n : ℕ)
+    (h:n.factorial * r = n.factorial * s) : r = s := by
+  exact inj_smul_factorial n r s h
+
+/-- This is a generalization of the combinatorial multichoose function, given by choosing with
+replacement. -/
+def multichoose [BinomialSemiring R] : R → ℕ → R :=
+  λ r n => BinomialSemiring.multichoose r n
+
+theorem factorial_mul_multichoose_eq_pochEval [BinomialSemiring R] {r : R} (n : ℕ) :
```
[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: I have followed your suggestion.

File: Mathlib/RingTheory/Binomial.lean [hunk 13]
```diff
@@ -0,0 +1,124 @@
...
+
+universe u
+
+variable {R: Type u}
+
+section Semiring
+
+variable [Semiring R]
+
+/-- pochEval directly evaluates the n-th Pochhammer polynomial at an element r. -/
```
[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: I have followed your suggestion.

File: Mathlib/RingTheory/Binomial.lean [hunk 14]
```diff
@@ -0,0 +1,124 @@
...
+
+theorem pochEval_eq_pochhammer_eval (r : R) :
+  ∀ (k : ℕ), pochEval r k = Polynomial.eval r (pochhammer R k)
+| 0 => by rw [pochhammer_zero, Polynomial.eval_one, pochEval_zero]
+| (k + 1) => by
+  rw [pochhammer_succ_eval, ← pochEval_eq_pochhammer_eval r k, pochEval_succ,
+    Commute.translate_comm_pochEval]
+  rfl
+
+theorem pochEval_mul (r : R) (n : ℕ) : ∀ (k : ℕ),
```
[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: I have followed your suggestion.

File: Mathlib/RingTheory/Binomial.lean (hunk 5 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Sorry, I had misunderstood your suggestion.  I've put the basic results in `Mathlib/Data/Nat/Cast/Commute.lean` and (I think) applied dot notation as you suggested.

File: Mathlib/RingTheory/Binomial.lean [hunk 15]
```diff
@@ -0,0 +1,124 @@
...
+  pochEval r (k.succ) = (r + k) * (pochEval r k) := by rfl
+
+theorem pochEval_cast (n : ℕ) : ∀ (k : ℕ), pochEval (n : R) k = (pochEval n k)
+| 0 => by rw [pochEval_zero, pochEval_zero, Nat.cast_one]
+| (k + 1) => by
+  rw [pochEval_succ, pochEval_succ, Nat.cast_mul, pochEval_cast n k, Nat.cast_add]
+  norm_cast
+
+theorem Commute.mem_comm_translate (r s : R) (n : ℕ) (h: Commute r s) : Commute r (s + n) := by
+  refine Commute.add_right h (Nat.commute_cast r n)
```
[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: I've inlined the proofs using dot-notation as you suggested.

File: Mathlib/RingTheory/Binomial.lean [hunk 16]
```diff
@@ -0,0 +1,124 @@
...
+
+theorem Commute.translate_comm_mem (r s : R) (n : ℕ) (h : Commute r s) : Commute (r + n) s := by
+  refine Commute.add_left h (Nat.cast_commute n s)
```
[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Here too.

File: Mathlib/RingTheory/Binomial.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: @alreadydone Perhaps a different name would be more appropriate.  For example, `NonzeroSmulInjective`.

File: Mathlib/Data/Nat/Cast/Commute.lean [hunk 17]
```diff
@@ -42,4 +42,14 @@ theorem _root_.Commute.ofNat_right [NonAssocSemiring α] (x : α) (n : ℕ) [n.A
     Commute x (OfNat.ofNat n) :=
   n.commute_cast x
 
+theorem commute_add_cast [NonAssocSemiring α] (r s : α) (n : ℕ) (h: Commute r s) :
```
Comment (alexjbest) [inline Mathlib/Data/Nat/Cast/Commute.lean:45]:
```suggestion
theorem commute_add_cast [NonAssocSemiring α] (r s : α) (n : ℕ) (h : Commute r s) :
```

Comment (alexjbest) [reply Mathlib/Data/Nat/Cast/Commute.lean:45]: Can we make `NonAssocSemiring` a variable for this whole section actually?

File: Mathlib/RingTheory/Binomial.lean [hunk 18]
```diff
@@ -0,0 +1,116 @@
...
+import Mathlib.RingTheory.Polynomial.Pochhammer
+
+/-!
+# Binomial semirings and binomial rings
+
+In this file we introduce binomial semirings and binomial rings, together with related functions
+like binomial coefficients.
+
+According to our main reference [elliott2006binomial] (which lists many equivalent conditions), a
+binomial ring is a torsion-free commutative ring R such that for any `x ∈ R` and any `k ∈ ℕ`, the
```
Comment (alexjbest) [inline Mathlib/RingTheory/Binomial.lean:17]:
```suggestion
binomial ring is a torsion-free commutative ring `R` such that for any `x ∈ R` and any `k ∈ ℕ`, the
```

File: Mathlib/RingTheory/Binomial.lean [hunk 19]
```diff
@@ -0,0 +1,116 @@
...
+product `x(x-1)⋯(x-k+1)` is divisible by `k!`.  The torsion-free condition lets us divide by `k!`
+unambiguously, so we get uniquely defined binomial coefficients.
+
+The defining condition doesn't require commutativity, and we get a theory with essentially the same
+power by replacing subtraction with addition.  Thus, we consider a semiring R in which
```
Comment (alexjbest) [inline Mathlib/RingTheory/Binomial.lean:22]:
```suggestion
power by replacing subtraction with addition.  Thus, we consider a semiring `R` in which
```

File: Mathlib/RingTheory/Binomial.lean [hunk 20]
```diff
@@ -0,0 +1,116 @@
...
+The quotient is called `multichoose r k`, following the convention given for natural numbers.
+
+## References
+* [J. Elliott, *Binomial rings, integer-valued polynomials, and λ-rings*][elliott2006binomial]
+
+-/
+
+universe u
+
+variable {R: Type u}
```
Comment (alexjbest) [inline Mathlib/RingTheory/Binomial.lean:34]:
```suggestion
variable {R : Type u}
```

File: Mathlib/RingTheory/Binomial.lean [hunk 21]
```diff
@@ -0,0 +1,116 @@
...
+variable [Semiring R]
+
+namespace Ring
+
+/-- `ascPochEval` directly evaluates the `n`-th ascending Pochhammer polynomial at an element `r`.-/
+def ascPochEval (r : R) : ℕ → R
+  | 0 => 1
+  | (k + 1) => (ascPochEval r k) * (r + k)
+
+theorem ascPochEval_zero (r : R) :  ascPochEval r 0 = 1 := rfl
```
Comment (alexjbest) [inline Mathlib/RingTheory/Binomial.lean:47]:
```suggestion
theorem ascPochEval_zero (r : R) : ascPochEval r 0 = 1 := rfl
```

File: Mathlib/RingTheory/Binomial.lean [hunk 22]
```diff
@@ -0,0 +1,116 @@
...
+
+theorem ascPochEval_succ (r : R) (k : ℕ) :
+  ascPochEval r (k.succ) = (ascPochEval r k) * (r + k) := rfl
+
+theorem ascPochEval_cast (n : ℕ) : ∀ (k : ℕ), ascPochEval (n : R) k = (ascPochEval n k)
```
Comment (alexjbest) [inline Mathlib/RingTheory/Binomial.lean:52]:
```suggestion
theorem ascPochEval_cast (n : ℕ) : ∀ (k : ℕ), ascPochEval (n : R) k = ascPochEval n k
```

File: Mathlib/RingTheory/Binomial.lean [hunk 23]
```diff
@@ -0,0 +1,116 @@
...
+| 0 => by rw [ascPochEval_zero, ascPochEval_zero, Nat.cast_one]
+| (k + 1) => by
+  rw [ascPochEval_succ, ascPochEval_succ, Nat.cast_mul, ascPochEval_cast n k, Nat.cast_add]
+  norm_cast
+
+theorem ascPochEval_eq_ascPochhammer_eval (r:R) :
+  ∀ (k:ℕ), ascPochEval r k = Polynomial.eval r (ascPochhammer R k)
```
Comment (alexjbest) [inline Mathlib/RingTheory/Binomial.lean:59]:
```suggestion
theorem ascPochEval_eq_ascPochhammer_eval (r : R) :
  ∀ (k : ℕ), ascPochEval r k = Polynomial.eval r (ascPochhammer R k)
```

Comment (alexjbest) [inline Mathlib/RingTheory/Binomial.lean:59]:
```suggestion
theorem ascPochEval_eq_ascPochhammer_eval (r : R) :
  ∀ (k : ℕ), ascPochEval r k = Polynomial.eval r (ascPochhammer R k)
```

File: Mathlib/RingTheory/Binomial.lean [hunk 24]
```diff
@@ -0,0 +1,116 @@
...
+variable {R: Type u}
+
+section Semiring
+
+variable [Semiring R]
+
+namespace Ring
+
+/-- `ascPochEval` directly evaluates the `n`-th ascending Pochhammer polynomial at an element `r`.-/
+def ascPochEval (r : R) : ℕ → R
```
Comment (alexjbest) [inline Mathlib/RingTheory/Binomial.lean:43]: Can we give this a more distinctive name, like `risingFactorial` or `ascendingFactorial` or something?

File: Mathlib/RingTheory/Binomial.lean [hunk 25]
```diff
@@ -0,0 +1,116 @@
...
+  multichoose : R → ℕ → R
+  /-- pochhammer n (evaluated at r) is divisible by n! (witnessed by multichoose) -/
+  factorial_mul_multichoose : ∀ (r : R) (n : ℕ), n.factorial * multichoose r n = ascPochEval r n
+
+theorem inj_smul_pos [BinomialSemiring R] (n : ℕ) (r s : R) (h: n ≠ 0) :
+  n * r = n * s → r = s := BinomialSemiring.inj_smul_pos n r s h
+
+theorem eq_of_mul_eq_mul_factorial [BinomialSemiring R] {r s : R} (n : ℕ)
+    (h : n.factorial * r = n.factorial * s) : r = s := by
+    apply inj_smul_pos n.factorial r s (Nat.factorial_ne_zero n) h
```
Comment (alexjbest) [inline Mathlib/RingTheory/Binomial.lean:103]:
```suggestion
  apply inj_smul_pos n.factorial r s (Nat.factorial_ne_zero n) h
```
also can this be `exact`? rather than apply?

File: Mathlib/RingTheory/Binomial.lean (hunk 24 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean:43]: `Nat.ascFactorial` is similar, but is defined so that `Nat.ascFactorial n r = ascPochEval (n + 1) r`.  I didn't want to introduce any off-by-one confusion.

File: Mathlib/Data/Nat/Cast/Commute.lean (hunk 17 above)
Comment (ScottCarnahan) [reply Mathlib/Data/Nat/Cast/Commute.lean]: I added the variable declaration for the section and removed it from the theorems.

File: Mathlib/RingTheory/Binomial.lean (hunk 18 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Done!

File: Mathlib/RingTheory/Binomial.lean (hunk 19 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Done!

File: Mathlib/RingTheory/Binomial.lean (hunk 20 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Done!

File: Mathlib/RingTheory/Binomial.lean (hunk 21 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Done!

File: Mathlib/RingTheory/Binomial.lean (hunk 22 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Thank you, that sticks out.

File: Mathlib/RingTheory/Binomial.lean (hunk 23 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Done!

Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Done!

File: Mathlib/RingTheory/Binomial.lean (hunk 25 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: I switched from tactic mode to a proof term.

File: Mathlib/RingTheory/Binomial.lean (hunk 11 above)
[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Okay, I've changed my mind, and have defined ascPochEval as you suggested.  The lets me eliminate the comparison theorem.

File: Mathlib/RingTheory/Binomial.lean (hunk 24 above)
Comment (alexjbest) [reply Mathlib/RingTheory/Binomial.lean]: I'm still not sure about this, having two very similar ways of expressing the same thing is a recipe for additional work down the line. I'd really prefer it if there was a way to unify them. It seems to me that the definition of `ascFactorial` could be nonstandard, seeing as it doesn't match Wikipedia for one. It would be good to understand why it was defined in this way in mathlib in the first place and if possible change that rather than reimplementing it

Comment (alexjbest) [reply Mathlib/RingTheory/Binomial.lean]: I see there is even a big note at the top of that file saying * `Nat.ascFactorial`: The ascending factorial. Note that it runs from `n + 1` to `n + k`
  and *not* from `n` to `n + k - 1`. We might want to change that in the future. So I think that we should indeed look seriously into changing it

Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: I changed it to `ascFactorial`.  In fact, I think it is worth changing the existing def of `Nat.ascFactorial` since it goes against essentially all of the existing literature, and also doesn't generalize well.

File: Mathlib/RingTheory/Binomial.lean (hunk 11 above)
[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Sorry, I've changed my mind again to make a recursive definition, and changed the name to `Ring.ascFactorial`.

File: Mathlib/RingTheory/Binomial.lean (hunk 24 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Sorry, I didn't reload the page before writing my comment, so our messages crossed.  I made a separate branch where `Nat.ascFactorial` is fixed (and I am nailing down the proofs that got broken), but now I am thinking perhaps Nat.ascFactorial should just be eliminated in favor of the general semiring ascFactorial.  Should I make a separate RingTheory/ascFactorial.lean file with few dependencies carrying just the definition and a few properties?

File: Mathlib/RingTheory/Binomial.lean [hunk 26]
```diff
@@ -0,0 +1,120 @@
...
+variable [Semiring R]
+
+namespace Ring
+
+/-- `ascFactorial`, also known as the rising factorial function, is the product
+`r (r+1) ⋯ (r + n - 1)`.  In other words, it recursively evaluates the `n`-th ascending Pochhammer
+polynomial at a semiring element `r`.-/
+def ascFactorial (r : R) : ℕ → R
+  | 0 => 1
+  | (k + 1) => (ascFactorial r k) * (r + k)
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:47]: This is just `ascPochhammer` as a bare function instead of a polynomial. Why not use `(ascPochhammer n k).eval`?

Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean:47]: I had found it a bit cumbersome to work with the polynomials earlier, but that was when I was just starting Lean.  I'll try again.

File: Mathlib/Data/Nat/Cast/Commute.lean [hunk 27]
```diff
@@ -20,40 +20,26 @@ namespace Nat
 
 section Commute
 
-variable [NonAssocSemiring α]
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/Cast/Commute.lean]: I think it was better before.

Comment (ScottCarnahan) [reply Mathlib/Data/Nat/Cast/Commute.lean]: Okay, I've restored that part.

File: Mathlib/RingTheory/Binomial.lean [hunk 28]
```diff
@@ -0,0 +1,68 @@
...
+
+variable {R : Type u}
+
+section BinomialSemiring
+
+/-- A semiring is binomial if multiplication by nonzero natural numbers is injective and ascending
+factorials are divisible by the corresponding factorial. -/
+class BinomialSemiring (R: Type u) extends Semiring R where
+  /-- Multiplication by positive integers is injective -/
+  inj_smul_pos (n : ℕ) (r s : R) (h: n ≠ 0) : n * r = n * s → r = s
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Binomial.lean:41]: Either this should be re-stated to use smul, or it should be renamed to use `_mul_`.

I think using `smul` would allow this definition to work for non-unital rings? Though I may be mistaken.

Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean:41]: That is a very interesting observation!  Yes, we can extend to the non-unital case (and even the non-associative but power-associative case) if we redefine `multichoose` to take only strictly positive Nat inputs.  However, we would need a version of `Polynomial.eval` for polynomials with `Nat` (or just some `CommSemiring` with a `smul`) coefficients and vanishing constant terms.  Do you suppose that is best done in a separate PR?

Comment (eric-wieser) [reply Mathlib/RingTheory/Binomial.lean]: I don't for a moment think you should make that generalization in this PR!

File: Mathlib/RingTheory/Binomial.lean [hunk 29]
```diff
@@ -0,0 +1,68 @@
...
+
+variable {R : Type u}
+
+section BinomialSemiring
+
+/-- A semiring is binomial if multiplication by nonzero natural numbers is injective and ascending
+factorials are divisible by the corresponding factorial. -/
+class BinomialSemiring (R: Type u) extends Semiring R where
+  /-- Multiplication by positive integers is injective -/
+  inj_smul_pos (n : ℕ) (r s : R) (h: n ≠ 0) : n • r = n • s → r = s
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:41]:
```suggestion
  nsmul_injective (n : ℕ) : n ≠ 0 → Injective (n • · : R → R)
```

File: Mathlib/RingTheory/Binomial.lean [hunk 30]
```diff
@@ -0,0 +1,68 @@
...
+  /-- The multichoose function witnesses the divisibility of ascFactorial r n by n! -/
+  multichoose : R → ℕ → R
+  /-- ascFactorial r n is divisible by n! (witnessed by multichoose) -/
+  factorial_mul_multichoose : ∀ (r : R) (n : ℕ),
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:45]:
```suggestion
  factorial_nsmul_multichoose : ∀ (r : R) (n : ℕ),
```

File: Mathlib/RingTheory/Binomial.lean [hunk 31]
```diff
@@ -0,0 +1,68 @@
...
+
+universe u
+
+variable {R : Type u}
+
+section BinomialSemiring
+
+/-- A semiring is binomial if multiplication by nonzero natural numbers is injective and ascending
+factorials are divisible by the corresponding factorial. -/
+class BinomialSemiring (R: Type u) extends Semiring R where
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:39]:
```suggestion
class BinomialSemiring (R : Type u) extends Semiring R where
```
and everywhere else

File: Mathlib/RingTheory/Binomial.lean [hunk 32]
```diff
@@ -0,0 +1,68 @@
...
+
+The defining condition doesn't require commutativity, and we get a theory with essentially the same
+power by replacing subtraction with addition.  Thus, we consider a semiring `R` in which
+multiplication by factorials is injective, and demand that for all `x ∈ R` and any `k ∈ ℕ`,
+`x(x+1)⋯(x+(k-1))` is divisible by `k!`.
+The quotient is called `multichoose r k`, following the convention given for natural numbers.
+
+## References
+* [J. Elliott, *Binomial rings, integer-valued polynomials, and λ-rings*][elliott2006binomial]
+
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:28]:
```suggestion

* [J. Elliott, *Binomial rings, integer-valued polynomials, and λ-rings*][elliott2006binomial]
```

File: Mathlib/RingTheory/Binomial.lean [hunk 33]
```diff
@@ -0,0 +1,68 @@
...
+-/
+
+universe u
+
+variable {R : Type u}
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:33]: Good style is to not specify universes unless you need to.
```suggestion
variable {R : Type*}
```

File: Mathlib/RingTheory/Binomial.lean [hunk 34]
```diff
@@ -0,0 +1,68 @@
...
+
+section BinomialSemiring
+
+/-- A semiring is binomial if multiplication by nonzero natural numbers is injective and ascending
+factorials are divisible by the corresponding factorial. -/
+class BinomialSemiring (R : Type u) extends Semiring R where
+  /-- Multiplication by positive integers is injective -/
+  nsmul_injective (n : ℕ) (r s : R) (h : n ≠ 0) : n • r = n • s → r = s
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:41]:
```suggestion
  nsmul_right_injective (n : ℕ) (h : n ≠ 0) : Injective (n • · : R → R)
```
You'll have to `open Function` at the top.

The `_right` refers to the naming convention in #9095 (which is already mostly implemented for `mul`).

File: Mathlib/RingTheory/Binomial.lean [hunk 35]
```diff
@@ -0,0 +1,68 @@
...
+  /-- The multichoose function witnesses the divisibility of ascFactorial r n by n! -/
+  multichoose : R → ℕ → R
+  /-- ascFactorial r n is divisible by n! (witnessed by multichoose) -/
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:44]:
```suggestion
  /-- `ascFactorial r n` is divisible by n! (witnessed by `multichoose`). -/
```

File: Mathlib/RingTheory/Binomial.lean [hunk 36]
```diff
@@ -0,0 +1,68 @@
...
+variable {R : Type u}
+
+section BinomialSemiring
+
+/-- A semiring is binomial if multiplication by nonzero natural numbers is injective and ascending
+factorials are divisible by the corresponding factorial. -/
+class BinomialSemiring (R : Type u) extends Semiring R where
+  /-- Multiplication by positive integers is injective -/
+  nsmul_injective (n : ℕ) (r s : R) (h : n ≠ 0) : n • r = n • s → r = s
+  /-- The multichoose function witnesses the divisibility of ascFactorial r n by n! -/
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:42]:
```suggestion
  /-- The multichoose function witnesses the divisibility of `ascFactorial r n` by n! -/
```

File: Mathlib/RingTheory/Binomial.lean [hunk 37]
```diff
@@ -0,0 +1,68 @@
...
+
+universe u
+
+variable {R : Type u}
+
+section BinomialSemiring
+
+/-- A semiring is binomial if multiplication by nonzero natural numbers is injective and ascending
+factorials are divisible by the corresponding factorial. -/
+class BinomialSemiring (R : Type u) extends Semiring R where
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:39]: What kinds of binomial semirings do you care about? WIth your current design, you will need to define `BinomialRing (R) extends Ring R`, `BinomialField R extends Field R`, etc... if you want to talk about rings/fields which are binomial.

An alternative solution is not extend but do a *mixin*:
```suggestion
class BinomialRing (R : Type u) [Semiring R] where
```
The advantage is that you need not introduce even more typeclasses later. The drawback is that you now have to write `[Semiring R] [BinomialRing R]` instead of `[BinomialSemiring R]`. (There's also performance concerns if your typeclass is used a lot, but that's irrelevant here)

File: Mathlib/RingTheory/Binomial.lean [hunk 38]
```diff
@@ -0,0 +1,68 @@
...
+  /-- Multiplication by positive integers is injective -/
+  nsmul_injective (n : ℕ) (r s : R) (h : n ≠ 0) : n • r = n • s → r = s
+  /-- The multichoose function witnesses the divisibility of ascFactorial r n by n! -/
+  multichoose : R → ℕ → R
+  /-- ascFactorial r n is divisible by n! (witnessed by multichoose) -/
+  factorial_nsmul_multichoose : ∀ (r : R) (n : ℕ),
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:45]:
```suggestion
  factorial_nsmul_multichoose (r : R) (n : ℕ) :
```

File: Mathlib/RingTheory/Binomial.lean [hunk 39]
```diff
@@ -0,0 +1,68 @@
...
+theorem eq_of_mul_eq_mul_factorial [BinomialSemiring R] {r s : R} (n : ℕ)
+    (h : n.factorial • r = n.factorial • s) : r = s :=
+  nsmul_injective n.factorial r s (Nat.factorial_ne_zero n) h
+
+/-- This is a generalization of the combinatorial multichoose function, given by choosing with
+replacement. -/
+def multichoose [BinomialSemiring R] (r : R) (n : ℕ) : R :=
+  BinomialSemiring.multichoose r n
+
+theorem factorial_mul_multichoose_eq_ascPochhammer [BinomialSemiring R] (r : R) (n : ℕ) :
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:62]:
```suggestion
theorem factorial_nsmul_multichoose_eq_eval_ascPochhammer [BinomialSemiring R] (r : R) (n : ℕ) :
```
just to make sure that people typing `evalpochhammer` in the docs will find your lemma.

File: Mathlib/RingTheory/Binomial.lean [hunk 40]
```diff
@@ -0,0 +1,68 @@
...
+    n.factorial • multichoose r n = Polynomial.eval r (ascPochhammer R n)
+
+namespace Ring
+
+theorem nsmul_injective [BinomialSemiring R] (n : ℕ) (r s : R) (h : n ≠ 0) :
+    n • r = n • s → r = s := BinomialSemiring.nsmul_injective n r s h
+
+theorem eq_of_mul_eq_mul_factorial [BinomialSemiring R] {r s : R} (n : ℕ)
+    (h : n.factorial • r = n.factorial • s) : r = s :=
+  nsmul_injective n.factorial r s (Nat.factorial_ne_zero n) h
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:55]: That's a weird theorem to have since it's a trivial special case of `nsmul_injective`.

File: Mathlib/RingTheory/Binomial.lean [hunk 41]
```diff
@@ -0,0 +1,68 @@
...
+
+/-- This is a generalization of the combinatorial multichoose function, given by choosing with
+replacement. -/
+def multichoose [BinomialSemiring R] (r : R) (n : ℕ) : R :=
+  BinomialSemiring.multichoose r n
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:60]: Do you think you will be able to completely supersede `Nat.multichoose` in the future? If so, do you mind leaving a TODO? Something like
```
## TODO

Replace `Nat.multichoose` with `Ring.multichoose`.
```
in the module doc.

File: Mathlib/RingTheory/Binomial.lean (hunk 37 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean:39]: I like this alternative.  I have been experimenting with a prop-valued mixin `Binomial R`, that can be defined for any `NonAssocSemiring R` with `Pow R ℕ` but I need a new version of `Polynomial.eval` that uses SMul to use it.

Comment (YaelDillies) [reply Mathlib/RingTheory/Binomial.lean:39]: That makes sense. You can always use the `Semiring` generality here for now while you refactor `Polynomial.eval`.

File: Mathlib/RingTheory/Binomial.lean [hunk 42]
```diff
@@ -9,60 +9,63 @@ import Mathlib.RingTheory.Polynomial.Pochhammer
...
+variable {R : Type*}
 
-section BinomialSemiring
+section Binomial
 
-/-- A semiring is binomial if multiplication by nonzero natural numbers is injective and ascending
-factorials are divisible by the corresponding factorial. -/
-class BinomialSemiring (R : Type u) extends Semiring R where
+/-- A `Prop`-valued mixin for multi-binomial coefficients. -/
+class Binomial (R : Type*) [Semiring R] : Prop where
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:39]:
```suggestion
class IsBinomialRing (R : Type*) [Semiring R] : Prop where
```
will be less ambiguous

File: Mathlib/RingTheory/Binomial.lean [hunk 43]
```diff
@@ -9,60 +9,63 @@ import Mathlib.RingTheory.Polynomial.Pochhammer
...
-  nsmul_injective (n : ℕ) (r s : R) (h : n ≠ 0) : n • r = n • s → r = s
-  /-- The multichoose function witnesses the divisibility of ascFactorial r n by n! -/
-  multichoose : R → ℕ → R
-  /-- ascFactorial r n is divisible by n! (witnessed by multichoose) -/
-  factorial_nsmul_multichoose : ∀ (r : R) (n : ℕ),
-    n.factorial • multichoose r n = Polynomial.eval r (ascPochhammer R n)
+  nsmul_right_injective (n : ℕ) (h : n ≠ 0) : Injective (n • · : R → R)
+  /-- `ascFactorial r n` is divisible by n! -/
+  factorial_nsmul_multichoose (r : R) (n : ℕ) : ∃ (s : R),
+    n.factorial • s = Polynomial.eval r (ascPochhammer R n)
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:44]: I liked your previous idea better, actually. It let us actually compute `multichoose`.

File: Mathlib/RingTheory/Binomial.lean (hunk 41 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: This looks like an interesting idea.  I will need to try some experiments before coming to a conclusion.

File: Mathlib/RingTheory/Binomial.lean [hunk 44]
```diff
@@ -0,0 +1,72 @@
...
+## References
+
+* [J. Elliott, *Binomial rings, integer-valued polynomials, and λ-rings*][elliott2006binomial]
+
+-/
+
+open Function
+
+/-- A mixin for multi-binomial coefficients. -/
+class IsBinomialRing (R : Type*) [Semiring R] where
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:35]: Given that you went back to the data-full approach,
```suggestion
class BinomialRing (R : Type*) [Semiring R] where
```

File: Mathlib/RingTheory/Binomial.lean [hunk 45]
```diff
@@ -0,0 +1,72 @@
...
+
+namespace Ring
+
+variable {R : Type*} [Semiring R] [IsBinomialRing R]
+
+theorem nsmul_right_injective (n : ℕ) (h : n ≠ 0) :
+    Injective (n • · : R → R) := IsBinomialRing.nsmul_right_injective n h
+
+/-- This is a generalization of the combinatorial multichoose function, given by choosing with
+replacement. -/
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:54]: Can you explain what it *does*, rather than its relationship to other things? Your current docstring is interesting to have, but not as the primary description.
```suggestion
/-- ????

This is a generalization of the combinatorial multichoose function, given by choosing with
replacement. -/
```

File: Mathlib/RingTheory/Binomial.lean [hunk 46]
```diff
@@ -0,0 +1,72 @@
...
+def multichoose (r : R) (n : ℕ) : R := IsBinomialRing.multichoose r n
+
+theorem factorial_nsmul_multichoose_eq_eval_ascPochhammer (r : R) (n : ℕ) :
+    n.factorial • multichoose r n = Polynomial.eval r (ascPochhammer R n) :=
+  IsBinomialRing.factorial_nsmul_multichoose r n
+
+instance naturals_binomial : IsBinomialRing ℕ := by
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Binomial.lean:61]:
```suggestion
instance Nat.instBinomialSemiring : BinomialRing ℕ := by
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

File: Mathlib/RingTheory/Binomial.lean [hunk 47]
```diff
@@ -0,0 +1,80 @@
...
+  BinomialRing.factorial_nsmul_multichoose r n
+
+instance Nat.instBinomialSemiring : BinomialRing ℕ := by
+  refine BinomialRing.mk ?nsmul_right_injective ?multichoose ?factorial_nsmul_multichoose
+  intro n hn r s hrs
+  exact Nat.eq_of_mul_eq_mul_left (Nat.pos_of_ne_zero hn) hrs
+  use Nat.multichoose
+  intro r n
+  rw [Nat.multichoose_eq, smul_eq_mul, ← Nat.descFactorial_eq_factorial_mul_choose,
+    ascPochhammer_nat_eq_descFactorial]
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Binomial.lean:76]: This has two antipatterns:
* Not focussing goals: it's hard to tell where one field ends and the next begins
* Using `.mk` instead of `where` syntax.

It would be much better to write
```suggestion
instance Nat.instBinomialSemiring : BinomialRing ℕ where
  nsmul_right_injective n hn r s hrs := Nat.eq_of_mul_eq_mul_left (Nat.pos_of_ne_zero hn) hrs
  multichoose := Nat.multichoose
  factorial_nsmul_multichoose r n := by
    rw [Nat.multichoose_eq, smul_eq_mul, ← Nat.descFactorial_eq_factorial_mul_choose,
      ascPochhammer_nat_eq_descFactorial]
```
(untested)

File: Mathlib/RingTheory/Binomial.lean [hunk 48]
```diff
@@ -0,0 +1,80 @@
...
+/-- The multichoose function is the quotient of ascending Pochhammer evaluation by the corresponding
+factorial. When applied to natural numbers, `multichoose k n` describes choosing a multiset of `n`
+items from a group of `k`, i.e., choosing with replacement. -/
+def multichoose (r : R) (n : ℕ) : R := BinomialRing.multichoose r n
+
+theorem factorial_nsmul_multichoose_eq_eval_ascPochhammer (r : R) (n : ℕ) :
+    n.factorial • multichoose r n = Polynomial.eval r (ascPochhammer R n) :=
+  BinomialRing.factorial_nsmul_multichoose r n
+
+instance Nat.instBinomialSemiring : BinomialRing ℕ := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Binomial.lean:69]: It seems that you haven't decided whether this should be called a `Ring` or a `Semiring`; can you rename either the instance or the typeclass (and perhaps add a brief note in a docstring somewhere about the disparity between what you formalized, what you named it, and what the literature does (since it sounds like the literate only talks about the ring case?)

File: Mathlib/RingTheory/Binomial.lean [hunk 49]
```diff
@@ -0,0 +1,80 @@
...
+
+variable {R : Type*} [Semiring R] [BinomialRing R]
+
+theorem nsmul_right_injective (n : ℕ) (h : n ≠ 0) :
+    Injective (n • · : R → R) := BinomialRing.nsmul_right_injective n h
+
+/-- The multichoose function is the quotient of ascending Pochhammer evaluation by the corresponding
+factorial. When applied to natural numbers, `multichoose k n` describes choosing a multiset of `n`
+items from a group of `k`, i.e., choosing with replacement. -/
+def multichoose (r : R) (n : ℕ) : R := BinomialRing.multichoose r n
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Binomial.lean:63]: Can you add a simp lemma that says `BinomialRing.multichoose = Ring.multichoose`? It sounds like we don't ever want the former to appear in a goal view.

File: Mathlib/Data/Nat/Cast/Commute.lean
Comment (eric-wieser) [inline Mathlib/Data/Nat/Cast/Commute.lean:1]: The changes to this file are all cosmetic, right?

Comment (ScottCarnahan) [reply Mathlib/Data/Nat/Cast/Commute.lean:1]: Yes, I had added some commutativity lemmas that turned out to be unnecessary.

File: Mathlib/RingTheory/Binomial.lean (hunk 49 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean:65]: Done!

File: Mathlib/RingTheory/Binomial.lean (hunk 48 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: I think I changed all the `Semiring` names to `Ring`.

File: Mathlib/RingTheory/Binomial.lean (hunk 47 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Thank you, this is much better.

File: Mathlib/RingTheory/Binomial.lean (hunk 41 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: Removing `Nat.multichoose` turned out to be pretty easy.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
